US03963313
A mixture of 5.9 g. of p-aminobenzonitrile and 8.8 g. of p-n-pentylbenzaldehyde in 100 ml. of benzene is treated with 150 mg. of p-toluenesulfonic acid and reacted as described in Example 1. After evaporation, there remain 13.9 g. of a yellow oil which crystallizes with cooling. Purification is carried out by several recrystallizations from isopropanol as described in Example 1. The p-[(p-n-pentylbenzyliden)amino]benzonitrile which is obtained has a melting point of 45.6°-46.4°C. and a clearing point of 75.0°C. UV (ethanol): ε279 = 24400 (shoulder at 314 nm). The nuclear magnetic resonance, mass spectrum, infrared and microanalysis data confirm the structure.

reactant | p-aminobenzonitrile | NC1=CC=C(C#N)C=C1 | C7H6N2
reactant | p-n-pentylbenzaldehyde | C(CCCC)C1=CC=C(C=O)C=C1 | C12H16O
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | benzene | C1=CC=CC=C1 | C6H6
product | p-[(p-n-pentylbenzyliden)amino]benzonitrile | C(CCCC)C1=CC=C(C=NC2=CC=C(C#N)C=C2)C=C1 | C19H20N2
